US04900743
3-(2-Fluorophenyl)-4-methyl-5-methylsulfinyl-4H-1,2,4-triazole
To a stirred, 0° C., solution of 3-(2-fluorophenyl)-4-methyl-5-methylthio-4H-1,2,4-triazole (5.0 g, 2.2×10-2 mole) and CH2Cl2 (125 ml) was added portionwise m-chloroperoxybenzoic acid (4.83 g, 2.24×10-2 mole, 80% active MCPBA). After stirring overnight at room temperature, the reaction was diluted with CH2Cl2 until homogeneous and was then washed in turn twice with saturated aqueous NaHCO3 and once with saturated aqueous NaCl. After drying over anhydrous Na2SO4, the CH2Cl2 was evaporated leaving an oil which slowly crystallized. Crystallization from EtOAc/hexane gave a colorless solid: 3.7 g (68%), mp 95°-97° C.

reactant | 3-(2-fluorophenyl)-4-methyl-5-methylthio-4H-1,2,4-triazole | 2.2×10-2 mole, 5.0 g | FC1=C(C=CC=C1)C1=NN=C(N1C)SC | C10H10FN3S
reactant | m-chloroperoxybenzoic acid | 2.24×10-2 mole, 4.83 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 125 ml | C(Cl)Cl | CH2Cl2
product | 3-(2-Fluorophenyl)-4-methyl-5-methylsulfinyl-4H-1,2,4-triazole | FC1=C(C=CC=C1)C1=NN=C(N1C)S(=O)C | C10H10FN3OS
